US09399640B2
Step 7. 4-[4-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one
A solution of 4-[3,4-diamino-2-(2,4-difluorophenoxyl)phenyl]-6-methyl-2-{[2-(trimethylsilyl)ethoxy]methyl}-2,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one (103 mg, 0.200 mmol) in acetic acid (0.40 mL) was treated with water (1.0 mL) followed by sodium nitrite (69.0 mg, 1.00 mmol) and stirred at 20° C. for 30 min. The reaction mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with saturated sodium bicarbonate (2×) and brine, dried with magnesium sulfate, filtered, and concentrated to give the SEM-protected intermediate which was used without further purification. The crude intermediate was diluted with methylene chloride (4.00 mL) and trifluoroacetic acid (4.00 mL) and stirred at 40° C. for 3 h. The reaction mixture was concentrated, diluted with acetonitrile, adjusted to pH 7 with 1 M NaOH, and purified via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) to give the desired product (16 mg, 20%). 1H NMR (500 MHz, DMSO-d6) δ 14.05 (br s, 1H), 7.86-7.72 (m, 2H), 7.57 (d, J=8.4 Hz, 1H), 7.35 (s, 1H), 7.31-7.22 (m, 1H), 6.85-6.73 (m, 2H), 3.53 (s, 3H); LCMS calculated for C19H13F2N6O2 (M+H)+: m/z=395.1. found: 395.1.

reactant | 4-[3,4-diamino-2-(2,4-difluorophenoxyl)phenyl]-6-methyl-2-{[2-(trimethylsilyl)ethoxy]methyl}-2,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 0.200 mmol, 103 mg | NC=1C(=C(C=CC1N)C=1C=2C(C(N(C1)C)=O)=NN(C2)COCC[Si](C)(C)C)OC2=C(C=C(C=C2)F)F | C25H29F2N5O3Si
reactant | sodium nitrite | 1.00 mmol, 69.0 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 0.40 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 1.0 mL | O | H2O
product | 4-[4-(2,4-Difluorophenoxy)-1H-1,2,3-benzotriazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | 16 mg, 20% | FC1=C(OC2=C(C=CC=3NN=NC32)C=3C2=C(C(N(C3)C)=O)NN=C2)C=CC(=C1)F | C19H12F2N6O2
